US07544835B2
a) 5-Benzyloxy-1-methyl-1H-indol-3-aldehyde
5g of 5-Benzyloxyindol-3-aldehyde was dissolved in 50 ml of N,N-dimethylformamide, and 0.84 g of 60% sodium hydride was added under ice-cooling. The reaction solution was stirred at room temperature for 30 minutes, 2.5 ml of methyl iodide was added and stirring was continued at room temperature for 16 hours. The reaction solution was cooled with ice, treated with water and ammonium chloride, and extracted with ethyl acetate and tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was treated with diethyl ether and filtered, to give 4.6 g of the title compound.

reactant | 5-Benzyloxyindol-3-aldehyde | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C=O | C16H13NO2
reactant | sodium hydride | 0.84 g | [H-].[Na+]
reactant | methyl iodide | 2.5 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Benzyloxy-1-methyl-1H-indol-3-aldehyde | 4.6 g | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)C)C=O | C17H15NO2
